Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel overwhelmed"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ yo female with no significant PMH, and
PPHx significant for depression, with history of SIB through
cutting, and no past psychiatric hospitalizations, who presented
to the ___ ED via EMS after thoughts of
SI in setting of a relationship issue. 

Patient explains that she is visiting ___, but lives in 
___, where she is studying Psychology at the ___ 
___, and met a
friend from the ___ (___) through a dating application 3 
months
ago. She had been speaking with this ___ regularly, and they
decided to meet, so patient booked a flight to come to ___.
She arrived on ___ and spent 2 days with ___. However, at
dinner this evening, ___ told the patient that she was seeing
someone else. This resulted in patient crying and being unable 
to
console. She was outside on a balcony, and reported thoughts 
such
as "if I jump off this balcony, everything would be fine." She
stated she was too afraid to do it, but she felt that life was
not worth living and that "life is sad." Since ___ knew that
patient had past history of suicidal thoughts, she was worried 
by
her statements and called the ambulance who brought the patient
to the ED. 

In ED, patient continues to endorse SI because she still
feels sad, but denies current plan. Denies feeling safe because
she "does not know what [she] would to do herself." However, she
does think she could tell ED staff if she has unsafe thoughts.
She explains that she does not want to die, but sometimes her
"brain tells [her] what to do." She feels that it's almost
"addictive to drown [herself] in sadness." Denies HI. 

Patient explains that though she was diagnosed with depression,
she feels that she just "loses control of [herself]." Patient
states that she will have thoughts of hurting herself once every
6 months and it will only occur in the context of a relationship
issue or when someone "breaks [her] heart." In those moments, 
she
reports becoming "desperate" and feels that nothing is worth
living for. Prior to this, she last had thoughts of suicide 6
months had, but could not recall the details. She stated that it
stated "something happened in the context of breaking up with 
her
ex" and she thinks she cut herself with glass after breaking a
light bulb. She states she will engaged in SIB with superficial
cutting. She will only cut her L wrist, but this time with the
light bulb left a scar. She has also tried hanging herself in 
the
past, but denies any intent of dying. She will engaged in SIB or
have thoughts of SI because she "wants to torture herself" but
denies previous suicide attempts. 

Patient endorsing depressed mood, anhedonia, decreased appetite,
increased difficult with sleep (difficulty falling asleep and
will often up in the middle of the night and have difficulty
falling back asleep), restlessness, fatigue/loss of energy,
worthlessness, guilt, hopelessness, and recurrent thoughts of
death

Upon interview today on Deac 4, patient states that staying in
the hospital alone has been difficult because she feels lonely.
She no longer endorsing SI and last reports SI last night. When
asked what changed, she states that when she feels that someone
cares about her, it makes her feel "really good." Since last
night, she spoke with her sister on the phone who was 
supportive.
She also stated that she had a kind nurse in the ER who she felt
was nice and caring. And, the girl (___) who she met on the
dating application came to visit her, which made her feel
"happy." Hoping to see more of ___, who was waiting outside 
of
Deac 4 during exam. Denies SI/HI/AVH. Reports that feels safe on
Deac 4 and is comfortable telling staff if she has unsafe
thoughts.

States she no longer feels depressed, "just lonely." Continues 
to
endorse decreased appetite, and decreased sleep (difficulty
falling asleep last night, slept 3 hours overnight). States that
her fatigue/loss of energy, worthlessness, guilt, hopelessness,
and recurrent thoughts of death have improved. She states that
she is hoping to think of the "positive side of things now." 

While on Deac 4, she thinks speaking with someone who is a
___ may be helpful, but feels that talking to friends
will be more helpful. Her goal of being here is to avoid having
to ever go ER again. She wishes she had controlled herself 
better
earlier, and would like to work on her self-control and
impulsivity. 

ROS:
PSYCHIATRIC: Positive per HPI. Denies the following:
- Depressed mood, anhedonia, psychomotor agitation/retardation,
fatigue/loss of energy, worthlessness/guilt, diminished
concentration, hopelessness, recurrent thoughts of death,
delusions, thought broadcasting/insertion, hallucinations,
elevated/irritable mood, increased activity/energy, decreased
need for sleep, grandiosity, increased speech, racing thoughts,
distractibility, increase in goal-directed activity/psychomotor
agitation, social/economic indiscretion, panic attacks, phobias,
rumination, obsessions, compulsions, nightmares, flashbacks,
hypervigilence, avoidance.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:

- Past diagnoses: Depression
- Hospitalizations: Denies
- Psychiatrist: Dr. ___ - only saw psychiatrist
one time ___ years ago
- Therapist: Denies
- Medication and ECT trials: Lexapro 
- Self-injury/Suicide attempts: history of SIB through cutting, 
1
attempted suicide through hanging. Patient was trying to hang
herself from a pipe in the ceiling using a scarf, but "it was 
too
difficult" so she gave up
- Harm to others: Reports scratching, punching, and throwing
objects at significant others during arguments.
- Trauma: When patient was ___, she was "brutally beaten" by her
boyfriend at the time

Past medical history:

- PCP: ___
- ___ trauma: Denies
- Seizures: Denies
- PMHx: Denies

 
Social History:
___
Family History:
- Fam Dx: Denies
- Fam Hospitalizations: Denies
- Fam Treatment Hx/Med Trials: Denies
- Fam Hx Suicide: Denies

 
Physical Exam:
On admission:

====
EXAM
====
Vital Signs:
T: 98.2, BP: 116/75, HR: 80, RR: 16, 97% RA 

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing, able to walk in tandem without difficulty, Romberg absent

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___" and "still
does not know" 
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Grass is greener on the other side" = "you're always
jealous of someone else's stuff, but you dont treasure what you
have" 
     - bicycle/train: "both modes of transportation"
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS:
- Appearance: no acute distress, Asian female appearing stated
age, adequate hygiene and grooming, wearing hospital gown
- Behavior/Attitude: calm, cooperative, friendly, forthcoming, 
no
psychomotor agitation or retardation, appropriate eye contact,
good posture, smiling and joking with interviewer
-Mood: "flat but excited because ___ is coming"
- Affect: euthymic
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: denies current SI/HI, no evidence of 
paranoia,
denies AVH, not appearing to be attending to internal stimuli
- Judgment and Insight: Limited/limited

On discharge:
VS:   98.1    115 / 76  77  16  99  

Mental Status Exam:
Appearance: well groomed
Facial expression: friendly, smiling on approach
build: WNL
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, volume and tone
Mood/affect "OK", stable, much improved, brighter
Thought Process/content: reality oriented, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

Neurological:
station and gait: intact
tone and strength: intact, moving all extremities spontaneously

Cognition: 
Wakefulness/alertness: alert
Attention: intact to interview
Orientation: oriented to person, place, time and situation
Executive function: intact to interview
Fund of knowledge: appropriate
Language: fluent without paraphasic errors

 
Pertinent Results:
___ 02:17AM URINE  HOURS-RANDOM
___ 02:17AM URINE  UCG-NEGATIVE
___ 02:17AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:17AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:17AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:00PM   GLUCOSE-89 UREA N-7 CREAT-0.7 SODIUM-147 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-22 ANION GAP-18
___ 11:00PM   estGFR-Using this
___ 11:00PM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 11:00PM   WBC-6.2 RBC-4.68 HGB-13.9 HCT-42.8 MCV-92 
MCH-29.7 MCHC-32.5 RDW-14.6 RDWSD-49.2*
___ 11:00PM   NEUTS-49.2 ___ MONOS-7.8 EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-3.04 AbsLymp-2.55 AbsMono-0.48 
AbsEos-0.05 AbsBaso-0.04
___ 11:00PM   PLT COUNT-___rief Hospital Course:
#Legal/Safety:
Patient was admitted to ___ on ___ and signed a 
Conditional Voluntary form. She remained on 15 minute checks and 

had monitored sharps access. She remained unit restricted given 
recent thoughts of self-harm/suicide. Throughout the 
hospitalization, 
she remained in good behavioral control and without acute safety 
issues. 
She did not require any chemical/physical restraints.

#Adjustment disorder with mixed emotional features:
At the time of admission, patient’s presentation was notable for 

depressed mood, anhedonia, decreased appetite, increased 
difficult with sleep (difficulty falling asleep and will often 
up in the middle of the night 
and have difficulty falling back asleep), restlessness, 
fatigue/loss of energy,
worthlessness, guilt, hopelessness, and recurrent thoughts of 
death. 
Exam was notable for mildly anxious/sad-appearing affect, but 
grossly 
reactive and future/goal oriented thought process. 
Patient was re-started on Lexapro 10 mg daily and the importance 
of compliance 
with medication was emphasized. She tolerated the medication 
well without any side effects. By the time of discharge, patient 
had stable euthymic mood and affect, 
consistent lack of suicidal ideation, lack of desire to 
self-injure, improved sleep, increased energy, hopefulness, and 
had notable future/goal oriented thinking with actively engaging 

in disposition planning. She also did not show signs of 
anhedonia, as she was engaged in the milieu/group therapy 
sessions, and also reported looking forward 
to getting back to school and visiting ___ before returning 
to ___. 

#Social:
After verbal consent was obtained from the patient, the 
treatment team contacted patient’s mother to update her 
regarding the presentation, reasons/indications for 
hospitalization, treatment goals/progress, and the disposition 
plan. Treatment team contacted ___ in ___ to notify 
about 
the admission, provide clinical update and coordinate care. The 
social worker 
was able to ___ and find: Complex Psychological Interventions 
___, ___, ___, ___ 
___,
___, Phone: ___ for psychopharm and therapy 
appointments. 

#Consent:
Risks and benefits of taking Lexapro for anxiety/depressive 
symptoms
was discussed with patient. She was provided with details of 
potential adverse effects, including nausea, drowsiness, 
sexual side effects, as well as the importance of re-starting 
the 
medication if she were to discontinue for longer than 48 hours. 
Patient verbalized understanding of the risks/benefits and gave 
verbal consent for initiation.

#Risk assessment, prognosis:
At the time of admission, the patient was determined to be at an 

elevated risk of harm to self due to symptoms of an unspecified 
depressive symptoms. Static risk factors that increase the risk 
of the patient’s potential for self-harm include history of 
self-injurious behavior by cutting, attempting suicide by 
hanging in the past,
single marital status, and possible presence of a concurrent 
personality disorder. Modifiable risk factors present at the 
time of admission which were addressed 
throughout the hospital course include medication non-adherence, 
limited coping 
skills (was provided coping skills/techniques through daily 
individual/group therapy sessions, no established outpatient 
treatment in the local area (referral provided (patient was 
given 
tools/techniques to avoid impulsive reactions in times of 
distress). 
At time of discharge, protective factors that help to 
mitigate the risk factors include help-seeking nature, 
future-oriented viewpoint, sense of responsibility to family, no 

irritability/agitation, reality testing ability, lack of 
suicidal ideation, no history of substance use disorder, no 
history of abuse. With adherence to medications and 
post-discharge 
aftercare as recommended, the treatment team found the patient’s 

prognosis to be fair. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Mixed Emotional Features
r/o cluster B personality traits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___